US04176196
3-Hydroxy-3-phenylcyclohexane-1-acetic acid
To a solution of 80 mmol of phenyl magnesium bromide (from 24.2 ml of a 3.3 M solution of phenyl magnesium bromide in ether) in 100 ml of tetrahydrofuran at 10° C. was slowly added 5.0 g (32.1 mmol) of 3-oxocyclohexane-1-acetic acid (prepared by the method of Bartlett and Woods, J.A.C.S. 62, 2933 (1960)) in 25 ml of tetrahydrofuran. The reaction was stirred 1 hr. longer at 25° and then added to 250 ml 1 N hydrochloric acid and 250 ml ether. The organic extract was extracted with 150 ml of 1 N sodium hydroxide. The base extract was reacidified with 200 ml of 1 N hydrochloric acid and extracted with 300 ml of ether. This ether extract was dried over magnesium sulfate and evaporated to an oil. Crystallization from ether gave 3.25 g (43%) of the title compound, MP, 152°, as a pure diastereomer. The mother liquor (4.0 g, 53%) was pure by PMR analysis and contained the other diastereomer. Crystallization of the mother liquor in cyclohexane followed by several recrystallizations gave the other diastereomer of the title compound, MP, 114°-115°.

reactant | phenyl magnesium bromide | 80 mmol | C1(=CC=CC=C1)[Mg]Br
reactant | 3-oxocyclohexane-1-acetic acid | 32.1 mmol, 5.0 g | O=C1CC(CCC1)CC(=O)O | C8H12O3
reactant | hydrochloric acid | 1 N, 250 ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ether | 250 ml | CCOCC | C4H10O
product | 3-Hydroxy-3-phenylcyclohexane-1-acetic acid | 3.25 g, 43% | OC1(CC(CCC1)CC(=O)O)C1=CC=CC=C1 | C14H18O3
